### PR TITLE
feat(MagicFunction): shared integrable majorants for contour integrands

### PR DESCRIPTION
**Pull request by cameronfreer**
The six contour-integrand integrability proofs now use shared bounds for the cusp segments, compact top edges, and vertical tail. This fills the six `Φⱼ_integrableOn` placeholders and removes repeated estimates from `I1.lean`–`I6.lean`.

## Stack and merge order

- Depends on #460; this branch includes its current head. Merge #460, then refresh this branch from `main` before merging #463.
- #464 uses the bounds and phase identities here for Fubini. #468 combines this API with #304 to retire `PolyFourierCoeffBound.norm_φ₀_le`.
- #476 builds on this stack to prove uniform quantitative bounds for all six scalar contour integrals. Its own diff no longer refactors `RealDecay.lean` or #460's `Decay.lean`.
- Supersedes the `Integrability.lean` portion of #261.

While #460 is unmerged, review the changes relative to its `bounding` branch; the GitHub diff against `main` also contains #460.

## Changes

- `Majorants.lean` centralizes the `φ₀''` norm estimate, its ray specializations, two integrability lemmas, and the phase identities relating `Φ₁`, `Φ₃`, and `Φ₅`.
- `Integrability.lean` proves integrability by contour type. `I1.lean`–`I6.lean` use the shared estimates directly.
- All six integral comparisons use `setIntegral_mono_of_nonneg`, eliminating the duplicated nonintegrable-case arguments.
- Removes the six unused whole-real-line `decay'₀`/`decay'` placeholders from `I2.lean`, `I4.lean`, and `I6.lean`, together with their empty and commented scaffolding. The nonnegative-input decay goals live in #460's `Schwartz.lean`.

The earlier review suggestions from @CBirkbeck and @seewoo5 are incorporated, including removal of the unused specializations and four `Bound_integrableOn` aliases.

## Verification

Full `lake build` and `lake exe mk_all --check --module` pass on the combined #460/#463 stack. No new `sorry` declarations. `Φ₂_integrableOn` and `Φ₄_integrableOn` are axiom-clean; the other four still inherit the pre-existing `sorry` in `PolyFourierCoeffBound.norm_φ₀_le`, addressed separately by #468.

### CODE REVIEW

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 1]
```diff
@@ -0,0 +1,279 @@
...
+
+/-- `π * I * r * (I * t) = -(π * r * t)`, the identity behind every cusp-class simplification. -/
+lemma cexp_pi_I_mul_I (r t : ℝ) :
+    cexp ((π : ℂ) * I * (r : ℂ) * (I * (t : ℂ))) = cexp (-((π : ℂ) * (r : ℂ) * (t : ℂ))) := by
+  congr 1
+  calc (π : ℂ) * I * r * (I * t) = (π : ℂ) * (I * I) * r * t := by ring
+    _ = _ := by rw [I_mul_I]; ring
+
+private lemma norm_cexp_pi_I_mul (c : ℝ) : ‖cexp ((c : ℂ) * I)‖ = 1 :=
+  Complex.norm_exp_ofReal_mul_I c
```
Comment (CBirkbeck) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: do we need this? why not use the result in the proof? I like to tell AIs if your lemma has a one line proof then maybe we dont need it

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 2]
```diff
@@ -0,0 +1,279 @@
...
+  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_φ₀''_le
+  refine ⟨C₀, hC₀_pos, fun u hu ↦ ?_⟩
+  have hu2 : u ^ 2 < 1 := by nlinarith [abs_nonneg u, sq_abs u]
+  have hden : (0 : ℝ) < u ^ 2 + 1 := by positivity
+  have him : 1 / 2 < (-1 / ((u : ℂ) + I)).im := by
+    rw [im_neg_one_div_add_I, one_div, one_div, inv_lt_inv₀ two_pos hden]; linarith
+  refine (hC₀ _ him).trans ?_
+  have hle : -2 * π * (-1 / ((u : ℂ) + I)).im ≤ -π := by nlinarith [Real.pi_pos]
+  exact mul_le_mul_of_nonneg_left (Real.exp_le_exp.2 hle) hC₀_pos.le
+
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: `norm_φ₀''_neg_inv_add_I_le` has no callers: `I2`/`I4` reach for the general `norm_φ₀''_le` directly (I2.lean:97, I4.lean:104), so the top-edge specialisation is never taken. Also checked the stacked branches — #464 and #468 carry this file with zero uses, and #465–#467 don't touch it — so deleting is stack-safe. The bullet on line 32 of the module docstring should go with it. (Verified the deletion builds.)

```suggestion
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 3]
```diff
@@ -0,0 +1,279 @@
...
+  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_φ₀_le
+  refine ⟨C₀, hC₀_pos, fun w hw ↦ ?_⟩
+  have hpos : 0 < w.im := one_half_pos.trans hw
+  exact (φ₀''_def hpos) ▸ hC₀ ⟨w, hpos⟩ hw
+
+/-! ### Imaginary parts of the three families of parametrisations -/
+
+@[simp]
+lemma im_I_mul (s : ℝ) : (I * (s : ℂ)).im = s := by simp
+
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: `im_I_mul` is unused (here and across #464–#468), and since its own proof is `by simp`, the `@[simp]` tag adds a lemma the default simp set already closes. (#465's `iAxis` discharges `0 < (I * ↑t).im` with a bare inline `simp` too.) Verified the deletion builds.

```suggestion
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 4]
```diff
@@ -0,0 +1,279 @@
...
+/-- A continuous function with a uniform norm bound on a measurable set of finite measure is
+integrable there. This is the segment-integrability workhorse for `Φ₁`–`Φ₅`. -/
+theorem integrableOn_of_norm_le_const {f : ℝ → ℂ} {s : Set ℝ} {C : ℝ}
+    (hs : MeasurableSet s) (hs' : volume s ≠ ⊤) (hf : ContinuousOn f s)
+    (hb : ∀ t ∈ s, ‖f t‖ ≤ C) : IntegrableOn f s volume := by
+  have hconst : IntegrableOn (fun _ : ℝ ↦ C) s volume := integrableOn_const hs' ENNReal.coe_ne_top
+  refine Integrable.mono' hconst (hf.aestronglyMeasurable hs) ?_
+  rw [ae_restrict_iff' hs]
+  exact ae_of_all _ hb
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: This restates mathlib's `MeasureTheory.IntegrableOn.of_bound`. The wrapper is worth keeping for the `ContinuousOn` + `∀ t ∈ s` packaging, but the proof can go through it:

```suggestion
    (hb : ∀ t ∈ s, ‖f t‖ ≤ C) : IntegrableOn f s volume :=
  .of_bound hs'.lt_top (hf.aestronglyMeasurable hs) C ((ae_restrict_iff' hs).2 (.of_forall hb))
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/I1.lean [hunk 5]
```diff
@@ -154,46 +156,19 @@ lemma I₁'_bounding_aux_1 (r : ℝ) : ∀ x ∈ Ici 1, ‖g r x‖ ≤ ‖φ₀
...
-      simp only [Real.norm_eq_abs, abs_of_nonneg (exp_pos _).le]
-      refine exp_le_exp.mpr <| (le_abs_self _).trans ?_
-      rw [abs_div, abs_mul, abs_neg, abs_of_nonneg pi_pos.le, abs_of_nonneg (by linarith : 0 ≤ s)]
-      exact div_le_self (by positivity) hs
-  change Integrable
-    (fun s ↦ C₀ * rexp (-2 * π * s) * rexp (-π * r / s))
-    (volume.restrict (Ici (1 : ℝ)))
-  simpa [μ, mul_comm] using h_g.bdd_mul hφ hb
+    IntegrableOn (fun s ↦ C₀ * rexp (-2 * π * s) * rexp (-π * r / s)) (Ici 1) volume :=
+  integrableOn_majorant_cusp r C₀
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I1.lean]: Non-blocking: with `integrableOn_majorant_cusp` in place, this alias (and its identical twins in I3/I5) is a one-liner used once, at line 187 — it could be inlined there and the lemma dropped. Counterpoint: I2/I4 keep genuinely different `Bound_integrableOn`s, so keeping the name for cross-file symmetry is defensible. Author's call.

**Review by seewoo5 — COMMENTED** [review]
(⚠️ These review are written by Claude)

---

Pulled the branch and reviewed locally. Everything in the PR description checks out:

- Full `lake build` is clean (3546 jobs); `Majorants.lean` itself emits zero warnings; project `sorry` count drops 72 → 66.
- `#print axioms` confirms the verification claims: `Φ₂/Φ₄_integrableOn` are sorry-free, and `Φ₁/Φ₃/Φ₅/Φ₆_integrableOn` depend only on the pre-existing `sorryAx` from `PolyFourierCoeffBound.norm_φ₀_le`, untouched here. No new axioms.
- Cross-checked the stacked branches (#464–#468): the inline findings below are all stack-safe (no downstream uses of the flagged declarations), while #464's `Fourier/Fubini.lean` genuinely consumes `norm_φ₀''_I_mul_le`, `norm_φ₀''_neg_inv_I_mul_le`, `cexp_pi_I_mul_I`, and both phase identities — so the shared-infrastructure design pays off downstream.

Inline comments below. I applied all of them (plus the `norm_cexp_pi_I_mul` inlining already raised) on top of this branch and the build stays green, net −21 lines.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 1 above)
Comment (seewoo5) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: ⚠️ Written by claude

---

Agreed — both call sites take the mathlib lemma verbatim: `rw [Φ₁_eq_Φ₅_mul_phase (mem_Icc_of_Ioc ht), norm_mul, Complex.norm_exp_ofReal_mul_I, mul_one]` (same for `Φ₃`), so this wrapper can just be deleted. Verified it compiles.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I2.lean [hunk 6]
```diff
@@ -69,35 +71,11 @@ lemma I₂'_bounding_aux_1 (r : ℝ) : ∀ t ∈ Ioo (0 : ℝ) 1, ‖g r t‖ 
...
-
+/-- The imaginary part along the top edge, from the shared computation
+`Majorants.im_neg_one_div_add_I`. -/
 lemma im_parametrisation_eq : ∀ t ∈ Ioo (0 : ℝ) 1, (-1 / (↑t + I)).im = 1 / (t ^ 2 + 1) := by
-  intro t ht
-  conv_lhs => rw [parametrisation_eq t ht, add_im]
-  norm_cast
-  rw [zero_add, mul_I_im, ofReal_re]
+  intro t _
+  simpa using im_neg_one_div_add_I (t : ℝ)
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I2.lean]:
```suggestion
  simpa using im_neg_one_div_add_I t
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/I3.lean [hunk 7]
```diff
@@ -154,55 +156,19 @@ lemma I₃'_bounding_aux_1 (r : ℝ) : ∀ x ∈ Ici 1, ‖g r x‖ ≤ ‖φ₀
...
-    calc |C₀| * (rexp (r * (s⁻¹ * -π)) * rexp (s * (π * -2)))
-        = |C₀| * rexp ((-2 * π) * s) * rexp (-π * r / s) := by ring_nf
-      _ ≤ _ := mul_le_mul_of_nonneg_left heb (by positivity)
-      _ = _ := by ring_nf
-  simpa [f, div_eq_mul_inv, neg_mul, mul_neg, mul_comm, mul_left_comm, mul_assoc] using
-    (integrableOn_Ici_iff_integrableOn_Ioi).mpr
-      (integrable_of_isBigO_exp_neg (by positivity) hcont hO)
+lemma Bound_integrableOn (r C₀ : ℝ) :
+    IntegrableOn (fun s ↦ C₀ * rexp (-2 * π * s) * rexp (-π * r / s)) (Ici 1) volume :=
+  integrableOn_majorant_cusp r C₀
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I3.lean]: It seems that `Bound_integrableOn` is exactly same as `integrableOn_majorant_cusp`. Maybe we can remove this?

File: SpherePacking/MagicFunction/a/IntegralEstimates/I5.lean [hunk 8]
```diff
@@ -153,43 +155,19 @@ lemma I₅'_bounding_aux_1 (r : ℝ) : ∀ x ∈ Ici 1, ‖g r x‖ ≤ ‖φ₀
...
-  simp only [φ₀'', mul_im, I_re, ofReal_im, mul_zero, I_im, ofReal_re, one_mul, zero_add, hpos,
-    ↓reduceDIte]
-  exact hC₀
+  exact hC₀ s (by linarith)
 
 end Bounding_Integrand
 
 section Integrability
 
 lemma Bound_integrableOn (r C₀ : ℝ) :
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I5.lean]: This seems to be duplicated with one in `I3.lean`.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I6.lean [hunk 9]
```diff
@@ -51,49 +53,20 @@ lemma I₆'_bounding_aux_1 (r : ℝ) : ∀ t ∈ Ici 1, ‖g r t‖ = ‖φ₀''
...
-  simp only [φ₀'', hpos, ↓reduceDIte]
-  simp only [him'] at hC₀
-  exact hC₀
+  exact hC₀ t (by linarith)
 
 end Bounding_Integrand
 
 section Integrability
 
 lemma Bound_integrableOn (r C₀ : ℝ) (hr : 0 ≤ r) :
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I6.lean]: Same here!

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 10]
```diff
@@ -0,0 +1,279 @@
...
+
+/-- The `PolyFourierCoeffBound` for `φ₀`, transported to `φ₀''` on the half-plane `Im w > 1/2`.
+
+Every estimate on the six contour segments is a specialisation of this one bound; the
+segments differ only in the parametrisation `t ↦ w t` fed into it. -/
+theorem norm_φ₀''_le : ∃ C₀ > 0, ∀ w : ℂ, 1 / 2 < w.im → ‖φ₀'' w‖ ≤ C₀ * rexp (-2 * π * w.im) := by
+  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_φ₀_le
+  refine ⟨C₀, hC₀_pos, fun w hw ↦ ?_⟩
+  have hpos : 0 < w.im := one_half_pos.trans hw
+  exact (φ₀''_def hpos) ▸ hC₀ ⟨w, hpos⟩ hw
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: `Exists.imp` absorbs the obtain/refine boilerplate (and the parens around `φ₀''_def hpos` are redundant):

```suggestion
  refine norm_φ₀_le.imp fun C₀ ⟨hC₀_pos, hC₀⟩ ↦ ⟨hC₀_pos, fun w hw ↦ ?_⟩
  have hpos : 0 < w.im := one_half_pos.trans hw
  exact φ₀''_def hpos ▸ hC₀ ⟨w, hpos⟩ hw
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 11]
```diff
@@ -0,0 +1,279 @@
...
+/-! ### Imaginary parts of the three families of parametrisations -/
+
+@[simp]
+lemma im_I_mul (s : ℝ) : (I * (s : ℂ)).im = s := by simp
+
+/-- `-1 / (I * t) = I / t`, so the cusp ray is again a point of the imaginary axis. -/
+lemma neg_one_div_I_mul (t : ℝ) : -1 / (I * (t : ℂ)) = I / (t : ℂ) := by
+  rw [div_eq_mul_inv, mul_inv, Complex.inv_I, div_eq_mul_inv]
+  ring
+
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: With the direct proof of `im_neg_one_div_I_mul` suggested just below, this helper loses its only caller (line 84 was its sole use in the repo and across the stacked PRs), so it can go — apply together with that suggestion:

```suggestion
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 12]
```diff
@@ -0,0 +1,279 @@
...
+@[simp]
+lemma im_neg_one_div_I_mul (t : ℝ) : (-1 / (I * (t : ℂ))).im = t⁻¹ := by
+  rw [neg_one_div_I_mul]
+  simp [Complex.div_ofReal_im]
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: Direct proof, no detour through `neg_one_div_I_mul`: simp routes through `Complex.inv_im`, and `div_self_mul_self'` closes `t / (t * t) = t⁻¹` unconditionally. The docstring keeps the geometric remark from the deleted helper:

```suggestion
/-- The cusp ray `-1/(I t)` is again a point of the imaginary axis, at height `t⁻¹`. -/
@[simp]
lemma im_neg_one_div_I_mul (t : ℝ) : (-1 / (I * (t : ℂ))).im = t⁻¹ := by
  simp [normSq_apply, neg_div, div_self_mul_self']
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 13]
```diff
@@ -0,0 +1,279 @@
...
+/-- The top edge of the fundamental domain, parametrised by `u ↦ -1 / (u + I)`. -/
+lemma im_neg_one_div_add_I (u : ℝ) : (-1 / ((u : ℂ) + I)).im = 1 / (u ^ 2 + 1) := by
+  have hne : ((u : ℂ) + I) ≠ 0 := by
+    simp only [ne_eq, Complex.ext_iff, add_re, add_im, ofReal_re, ofReal_im, I_re, I_im,
+      zero_re, zero_im, add_zero, zero_add]
+    norm_num
+  rw [div_im]
+  simp only [neg_re, neg_im, one_re, one_im, add_re, add_im, ofReal_re, ofReal_im, I_re, I_im,
+    add_zero, zero_add, neg_zero, zero_mul, zero_div, zero_sub, normSq_apply]
+  ring_nf
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: `hne` is never used — complex division is total and `div_im`/`inv_im` are unconditional — so the whole proof is one simp. Statement unchanged, so the `simpa using ...` consumers in I2/I4 are unaffected (verified):

```suggestion
lemma im_neg_one_div_add_I (u : ℝ) : (-1 / ((u : ℂ) + I)).im = 1 / (u ^ 2 + 1) := by
  simp [normSq_apply, neg_div, pow_two]
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 14]
```diff
@@ -0,0 +1,279 @@
...
+
+/-! ### Specialisations of the master bound -/
+
+/-- Vertical-ray class (`I₆`, and `I₁`, `I₃`, `I₅` after the change of variables `s = 1/t`). -/
+theorem norm_φ₀''_I_mul_le :
+    ∃ C₀ > 0, ∀ s : ℝ, 1 / 2 < s → ‖φ₀'' (I * (s : ℂ))‖ ≤ C₀ * rexp (-2 * π * s) := by
+  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_φ₀''_le
+  exact ⟨C₀, hC₀_pos, fun s hs ↦ by simpa using hC₀ (I * (s : ℂ)) (by simpa using hs)⟩
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: Term mode via `Exists.imp`; the redundant `(s : ℂ)` ascription also drops (short `h` keeps the line ≤100):

```suggestion
    ∃ C₀ > 0, ∀ s : ℝ, 1 / 2 < s → ‖φ₀'' (I * (s : ℂ))‖ ≤ C₀ * rexp (-2 * π * s) :=
  norm_φ₀''_le.imp fun C₀ ⟨h, hC₀⟩ ↦ ⟨h, fun s hs ↦ by simpa using hC₀ (I * s) (by simpa using hs)⟩
```

**Review by seewoo5 — COMMENTED** [review]
⚠️ Again, these reviews are written by Claude. I explicitly asked to suggest golf/clean-up, based on /mathlib-quality:clean-up skill.

---

Golf/cleanup pass, complementing the earlier correctness review. **Every suggestion below is compile-verified twice**: first individually against this branch, then all of them applied *together* (along with the deletions from the earlier review) — full `lake build` green, no new warnings, all lines ≤ 100 chars. Net effect of the combined set: `Majorants.lean` 279 → 199 lines (−80), `Integrability.lean` 95 → 86 (−9), with no statement changes anywhere, so `I1`–`I6` and the stacked PRs (#464, #468) are unaffected.

A few notes that span multiple suggestions:

- The `norm_Φ₁_le`/`norm_Φ₃_le` suggestions stop using the private `norm_cexp_pi_I_mul`, so together with the earlier thread on it, that wrapper ends up with zero callers — deletable.
- `neg_one_div_I_mul` becomes dead once `im_neg_one_div_I_mul` is proved directly; those two suggestions should be applied together.
- Recurring wins worth knowing about: `Exists.imp` absorbs the `obtain`/`refine`-existential boilerplate in five lemmas; the phase-identity twins need no `I² = −1` at all (the exponent split is a pure ring identity); and `hne` in `im_neg_one_div_add_I` was never used (complex division is total).
- Cosmetic, not suggested inline: `Φ₂/Φ₄_integrableOn` signatures also fit on one line, and mathlib style would prefer `0 ≤ r` over `r ≥ 0` in the six integrability signatures — but those signatures pre-date this PR.
- Side note for a follow-up, not this PR: with `Φ₆_eq_I₆_g` + `Φ₆_integrableOn` in place, `I6.lean`'s header TODO "Integrability of `g`" is one `IntegrableOn.congr_fun` away.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 15]
```diff
@@ -0,0 +1,279 @@
...
+/-- Cusp-touching class (`I₁`, `I₃`, `I₅` in their original parametrisation): as `t → 0⁺` the
+point `-1/(I t)` runs out to the cusp, and the bound decays like `exp (-2π/t)`. -/
+theorem norm_φ₀''_neg_inv_I_mul_le : ∃ C₀ > 0, ∀ t : ℝ, 0 < t → t < 2 →
+    ‖φ₀'' (-1 / (I * (t : ℂ)))‖ ≤ C₀ * rexp (-2 * π / t) := by
+  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_φ₀''_le
+  refine ⟨C₀, hC₀_pos, fun t ht ht' ↦ ?_⟩
+  have him : 1 / 2 < (-1 / (I * (t : ℂ))).im := by
+    rw [im_neg_one_div_I_mul]
+    nlinarith [mul_inv_cancel₀ ht.ne', inv_pos.mpr ht]
+  simpa only [im_neg_one_div_I_mul, ← div_eq_mul_inv] using hC₀ _ him
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: The `him` block is mathlib's `inv_strictAnti₀ ht ht' : 2⁻¹ < t⁻¹` plus a simp bridge — the `nlinarith [mul_inv_cancel₀ ...]` isn't needed. Same `Exists.imp` shape as its sibling. (Naming nit while here: the same expression is spelled `neg_one_div_I_mul` in the im-lemmas but `neg_inv_I_mul` in this name.)

```suggestion
    ‖φ₀'' (-1 / (I * (t : ℂ)))‖ ≤ C₀ * rexp (-2 * π / t) :=
  norm_φ₀''_le.imp fun C₀ ⟨h, hC₀⟩ ↦ ⟨h, fun t ht ht' ↦ by
    simpa only [im_neg_one_div_I_mul, ← div_eq_mul_inv] using
      hC₀ (-1 / (I * t)) (by simpa using inv_strictAnti₀ ht ht')⟩
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 16]
```diff
@@ -0,0 +1,279 @@
...
+    (Real.continuous_exp.measurable.comp (measurable_const.mul measurable_inv)).aestronglyMeasurable
+  have hb : ∀ᵐ s ∂μ, ‖rexp (-π * r / s)‖ ≤ rexp (π * |r|) :=
+    (ae_restrict_iff' measurableSet_Ici).2 <| .of_forall fun s (hs : 1 ≤ s) ↦ by
+      simp only [Real.norm_eq_abs, abs_of_nonneg (exp_pos _).le]
+      refine exp_le_exp.mpr <| (le_abs_self _).trans ?_
+      rw [abs_div, abs_mul, abs_neg, abs_of_nonneg pi_pos.le, abs_of_nonneg (by linarith : 0 ≤ s)]
+      exact div_le_self (by positivity) hs
+  change Integrable (fun s ↦ C₀ * rexp (-2 * π * s) * rexp (-π * r / s))
+    (volume.restrict (Ici (1 : ℝ)))
+  simpa [μ, mul_comm] using h_g.bdd_mul hφ hb
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: Domination is more direct than bounded×integrable here: building the majorant as `.const_mul |C₀| |>.mul_const (rexp (π * |r|))` lines it up factor-for-factor with the goal after `abs_mul`/`abs_exp`, so `gcongr` reduces straight to the exponent inequality; `fun_prop` handles measurability (no `s ≠ 0` issue), and the `set μ`/`change`/`simpa [μ]` head-mismatch workaround disappears. 17 → 9 lines:

```suggestion
  refine (((integrableOn_exp_mul_Ici (-2 * π) (by linarith [pi_pos])).const_mul
    |C₀|).mul_const (rexp (π * |r|))).mono' (by fun_prop) ?_
  filter_upwards [ae_restrict_mem measurableSet_Ici] with s (hs : 1 ≤ s)
  simp only [Real.norm_eq_abs, abs_mul, Real.abs_exp]
  gcongr
  rw [div_le_iff₀ (by linarith : (0:ℝ) < s)]
  nlinarith [mul_nonneg pi_pos.le (abs_nonneg r), pi_pos, neg_abs_le r]
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 17]
```diff
@@ -0,0 +1,279 @@
...
+/-- Vertical class: the majorant `C₀ * exp (-2πt) * exp (-πrt)` on `[1, ∞)`, for `r ≥ 0`. -/
+theorem integrableOn_majorant_vertical (r C₀ : ℝ) (hr : 0 ≤ r) :
+    IntegrableOn (fun t ↦ C₀ * rexp (-2 * π * t) * rexp (-π * r * t)) (Ici 1) volume := by
+  have h_eq : (fun t ↦ C₀ * rexp (-2 * π * t) * rexp (-π * r * t))
+      = fun t ↦ C₀ * rexp ((-2 * π - π * r) * t) := by
+    ext t
+    rw [mul_assoc, ← Real.exp_add]
+    ring_nf
+  rw [h_eq]
+  exact (integrableOn_exp_mul_Ici _ (by nlinarith [pi_pos])).const_mul C₀
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: The funext/`ring_nf` detour is one `simpa` — `IntegrableOn` must be in the simp set to bridge the head constant, and spelling the exponent `-2 * π + -π * r` lets `add_mul`/`exp_add` split it into exactly the goal's two factors. 9 → 4 lines:

```suggestion
  simpa [IntegrableOn, add_mul, Real.exp_add, mul_assoc] using (integrableOn_exp_mul_Ici
    (-2 * π + -π * r) (by linarith [pi_pos, mul_nonneg pi_pos.le hr])).const_mul C₀
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 18]
```diff
@@ -0,0 +1,279 @@
...
+section RealIntegrands
+
+variable {r t : ℝ}
+
+/-- `π * I * r * (I * t) = -(π * r * t)`, the identity behind every cusp-class simplification. -/
+lemma cexp_pi_I_mul_I (r t : ℝ) :
+    cexp ((π : ℂ) * I * (r : ℂ) * (I * (t : ℂ))) = cexp (-((π : ℂ) * (r : ℂ) * (t : ℂ))) := by
+  congr 1
+  calc (π : ℂ) * I * r * (I * t) = (π : ℂ) * (I * I) * r * t := by ring
+    _ = _ := by rw [I_mul_I]; ring
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: The calc through `I_mul_I` is a `linear_combination` one-liner — the difference of the exponents is `(π r t)·(I² + 1)`:

```suggestion
    cexp ((π : ℂ) * I * (r : ℂ) * (I * (t : ℂ))) = cexp (-((π : ℂ) * (r : ℂ) * (t : ℂ))) :=
  congrArg cexp (by linear_combination ((π : ℂ) * r * t) * I_sq)
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 19]
```diff
@@ -0,0 +1,279 @@
...
+/-- For `t ∈ (0, 1]`, `exp (-2π/t) * t² ≤ exp (-2π)`: the super-exponential decay at the cusp
+swallows the quadratic factor coming from the parametrisation. -/
+lemma exp_neg_two_pi_div_mul_sq_le (ht : 0 < t) (ht' : t ≤ 1) :
+    rexp (-2 * π / t) * t ^ 2 ≤ rexp (-2 * π) := by
+  have h1 : rexp (-2 * π / t) ≤ rexp (-2 * π) := by
+    rw [Real.exp_le_exp, neg_mul, neg_div, neg_le_neg_iff, le_div_iff₀ ht]
+    nlinarith [Real.pi_pos]
+  calc rexp (-2 * π / t) * t ^ 2 ≤ rexp (-2 * π) * t ^ 2 := by gcongr
+    _ ≤ rexp (-2 * π) * 1 := by gcongr; nlinarith
+    _ = rexp (-2 * π) := mul_one _
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: Stating `h1` at the exponent level lets one `gcongr` handle both factors at once, and the five-lemma rewrite chain collapses to `div_le_iff₀ ht`. 8 → 5 lines:

```suggestion
  have h1 : -2 * π / t ≤ -2 * π := by rw [div_le_iff₀ ht]; nlinarith [pi_pos]
  calc rexp (-2 * π / t) * t ^ 2 ≤ rexp (-2 * π) * 1 := by gcongr; nlinarith
    _ = rexp (-2 * π) := mul_one _
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 20]
```diff
@@ -0,0 +1,279 @@
...
+  have h_add : (-1 : ℂ) + I * (t : ℂ) + 1 = I * (t : ℂ) := by ring
+  have h_exp : cexp ((π : ℂ) * I * (r : ℂ) * (-1 + I * (t : ℂ)))
+      = cexp (((-(π * r) : ℝ) : ℂ) * I) * cexp (-((π : ℂ) * (r : ℂ) * (t : ℂ))) := by
+    rw [← Complex.exp_add]
+    congr 1
+    push_cast
+    calc (π : ℂ) * I * r * (-1 + I * t) = -(π * r) * I + π * (I * I) * r * t := by ring
+      _ = _ := by rw [I_mul_I]; ring
+  rw [h_add, h_exp, cexp_pi_I_mul_I]
+  ring
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: The exponent split here is a *pure ring identity* — no `I² = -1` needed — so `h_add`/`h_exp` dissolve into the simp set (`neg_add_cancel_comm`) plus one `show ... from by push_cast; ring` rewrite and `Complex.exp_add`. 13 → 7 lines. (The cast shape `((-(π * r) : ℝ) : ℂ) * I` is load-bearing: `(-(π * r) : ℂ) * I` elaborates to a different atom and the final `ring` fails.)

```suggestion
  simp only [Φ₁, Φ₅, Φ₁', Φ₅', z₁'_eq_of_mem ht, z₅'_eq_of_mem ht, neg_add_cancel_comm]
  rw [show (π : ℂ) * I * (r : ℂ) * (-1 + I * (t : ℂ))
      = ((-(π * r) : ℝ) : ℂ) * I + (π : ℂ) * I * (r : ℂ) * (I * (t : ℂ)) from by push_cast; ring,
    Complex.exp_add]
  ring
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 21]
```diff
@@ -0,0 +1,279 @@
...
+  have h_sub : (1 : ℂ) + I * (t : ℂ) - 1 = I * (t : ℂ) := by ring
+  have h_exp : cexp ((π : ℂ) * I * (r : ℂ) * (1 + I * (t : ℂ)))
+      = cexp ((((π * r) : ℝ) : ℂ) * I) * cexp (-((π : ℂ) * (r : ℂ) * (t : ℂ))) := by
+    rw [← Complex.exp_add]
+    congr 1
+    push_cast
+    calc (π : ℂ) * I * r * (1 + I * t) = (π * r) * I + π * (I * I) * r * t := by ring
+      _ = _ := by rw [I_mul_I]; ring
+  rw [h_sub, h_exp, cexp_pi_I_mul_I]
+  ring
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: Same golf as `Φ₁_eq_Φ₅_mul_phase` (mirror sign):

```suggestion
  simp only [Φ₃, Φ₅, Φ₃', Φ₅', z₃'_eq_of_mem ht, z₅'_eq_of_mem ht, add_sub_cancel_left]
  rw [show (π : ℂ) * I * (r : ℂ) * (1 + I * (t : ℂ))
      = (((π * r) : ℝ) : ℂ) * I + (π : ℂ) * I * (r : ℂ) * (I * (t : ℂ)) from by push_cast; ring,
    Complex.exp_add]
  ring
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 22]
```diff
@@ -0,0 +1,279 @@
...
+  have h_φ : ‖φ₀'' (-1 / (I * (t : ℂ)))‖ ≤ C₀ * rexp (-2 * π / t) :=
+    hC₀ t ht.1 (lt_of_le_of_lt ht.2 one_lt_two)
+  have h_exp_r : rexp (-(π * r * t)) ≤ 1 := by
+    rw [Real.exp_le_one_iff]
+    exact neg_nonpos_of_nonneg (mul_nonneg (mul_nonneg Real.pi_pos.le hr) ht.1.le)
+  calc ‖φ₀'' (-1 / (I * (t : ℂ)))‖ * t ^ 2 * rexp (-(π * r * t))
+      ≤ ‖φ₀'' (-1 / (I * (t : ℂ)))‖ * t ^ 2 := mul_le_of_le_one_right (by positivity) h_exp_r
+    _ ≤ C₀ * rexp (-2 * π / t) * t ^ 2 := by gcongr
+    _ = C₀ * (rexp (-2 * π / t) * t ^ 2) := by ring
+    _ ≤ C₀ * rexp (-2 * π) := by gcongr; exact exp_neg_two_pi_div_mul_sq_le ht.1 ht.2
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean:180]: The `rw` block and both `simp only`s merge into one simp (once `norm_pow` handles `‖(I·t)²‖`, the `mul_pow`/`I_sq`/`neg_one_mul`/`norm_neg` shuffle is redundant); `ht'`/`h_φ`/`h_exp_r` inline; and the 5-step calc becomes 3 — the first `gcongr` bounds the `φ₀''` factor and `exp(-πrt) ≤ 1` simultaneously via the `* 1`. 20 → 14 lines:

```suggestion
  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_φ₀''_neg_inv_I_mul_le
  refine ⟨C₀, hC₀_pos, fun t ht ↦ ?_⟩
  simp only [Φ₅, Φ₅', z₅'_eq_of_mem (mem_Icc_of_Ioc ht), cexp_pi_I_mul_I, norm_mul, norm_pow,
    Complex.norm_I, one_mul, Complex.norm_real, Real.norm_eq_abs, abs_of_pos ht.1,
    Complex.norm_exp, neg_re, mul_re, ofReal_re, ofReal_im, mul_zero, sub_zero]
  calc ‖φ₀'' (-1 / (I * (t : ℂ)))‖ * t ^ 2 * rexp (-(π * r * t))
      ≤ C₀ * rexp (-2 * π / t) * t ^ 2 * 1 := by
        gcongr
        · exact hC₀ t ht.1 (ht.2.trans_lt one_lt_two)
        · exact exp_le_one_iff.2 (neg_nonpos.2 (mul_nonneg (mul_nonneg pi_pos.le hr) ht.1.le))
    _ = C₀ * (rexp (-2 * π / t) * t ^ 2) := by ring
    _ ≤ C₀ * rexp (-2 * π) := by gcongr; exact exp_neg_two_pi_div_mul_sq_le ht.1 ht.2
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 23]
```diff
@@ -0,0 +1,279 @@
...
+
+/-- Uniform bound for `Φ₁` on `(0, 1]`: it agrees with `Φ₅` up to a unit-modulus phase. -/
+lemma norm_Φ₁_le (hr : 0 ≤ r) :
+    ∃ C₀ > 0, ∀ t ∈ Ioc (0 : ℝ) 1, ‖Φ₁ r t‖ ≤ C₀ * rexp (-2 * π) := by
+  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_Φ₅_le hr
+  refine ⟨C₀, hC₀_pos, fun t ht ↦ ?_⟩
+  rw [Φ₁_eq_Φ₅_mul_phase (mem_Icc_of_Ioc ht), norm_mul, norm_cexp_pi_I_mul, mul_one]
+  exact hC₀ t ht
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: Term mode via `Exists.imp`/`And.imp_right`; the phase norm is killed by `Complex.norm_exp` inside the `simpa`, so this no longer needs `norm_cexp_pi_I_mul` — with the same change to `norm_Φ₃_le`, that private wrapper has no callers left and can simply be deleted:

```suggestion
    ∃ C₀ > 0, ∀ t ∈ Ioc (0 : ℝ) 1, ‖Φ₁ r t‖ ≤ C₀ * rexp (-2 * π) :=
  (norm_Φ₅_le hr).imp fun C₀ ↦ And.imp_right fun hC₀ t ht ↦ by
    simpa [Φ₁_eq_Φ₅_mul_phase (mem_Icc_of_Ioc ht), Complex.norm_exp] using hC₀ t ht
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 24]
```diff
@@ -0,0 +1,279 @@
...
+
+/-- Uniform bound for `Φ₃` on `(0, 1]`: it agrees with `Φ₅` up to a unit-modulus phase. -/
+lemma norm_Φ₃_le (hr : 0 ≤ r) :
+    ∃ C₀ > 0, ∀ t ∈ Ioc (0 : ℝ) 1, ‖Φ₃ r t‖ ≤ C₀ * rexp (-2 * π) := by
+  obtain ⟨C₀, hC₀_pos, hC₀⟩ := norm_Φ₅_le hr
+  refine ⟨C₀, hC₀_pos, fun t ht ↦ ?_⟩
+  rw [Φ₃_eq_Φ₅_mul_phase (mem_Icc_of_Ioc ht), norm_mul, norm_cexp_pi_I_mul, mul_one]
+  exact hC₀ t ht
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: Mirror of the `norm_Φ₁_le` suggestion:

```suggestion
    ∃ C₀ > 0, ∀ t ∈ Ioc (0 : ℝ) 1, ‖Φ₃ r t‖ ≤ C₀ * rexp (-2 * π) :=
  (norm_Φ₅_le hr).imp fun C₀ ↦ And.imp_right fun hC₀ t ht ↦ by
    simpa [Φ₃_eq_Φ₅_mul_phase (mem_Icc_of_Ioc ht), Complex.norm_exp] using hC₀ t ht
```

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean [hunk 25]
```diff
@@ -13,50 +13,83 @@ public import SpherePacking.MagicFunction.a.IntegralEstimates.I4
...
-  refine ⟨ContinuousOn.aestronglyMeasurable Φ₁_contDiffOn.continuousOn measurableSet_Ioc, ?_⟩
-  sorry
-
-theorem Φ₂_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₂ r)
-    (Icc (0 : ℝ) 1) volume := by
-  refine ⟨ContinuousOn.aestronglyMeasurable Φ₂_contDiffOn.continuousOn measurableSet_Icc, ?_⟩
-  sorry
+  obtain ⟨_, _, hb⟩ := norm_Φ₁_le hr
+  exact integrableOn_of_norm_le_const measurableSet_Ioc (by simp [Real.volume_Ioc])
+    Φ₁_contDiffOn.continuousOn hb
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: `measure_Ioc_lt_top.ne` is the term-level spelling of the volume side goal, and the signature fits on one line (95 chars):

```suggestion
theorem Φ₁_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₁ r) (Ioc (0 : ℝ) 1) volume := by
  obtain ⟨_, _, hb⟩ := norm_Φ₁_le hr
  exact integrableOn_of_norm_le_const measurableSet_Ioc measure_Ioc_lt_top.ne
    Φ₁_contDiffOn.continuousOn hb
```

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean [hunk 26]
```diff
@@ -13,50 +13,83 @@ public import SpherePacking.MagicFunction.a.IntegralEstimates.I4
...
-  refine ⟨ContinuousOn.aestronglyMeasurable Φ₃_contDiffOn.continuousOn measurableSet_Ioc, ?_⟩
-  sorry
-
-theorem Φ₄_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₄ r)
-    (Icc (0 : ℝ) 1) volume := by
-  refine ⟨ContinuousOn.aestronglyMeasurable Φ₄_contDiffOn.continuousOn measurableSet_Icc, ?_⟩
-  sorry
+  obtain ⟨_, _, hb⟩ := norm_Φ₃_le hr
+  exact integrableOn_of_norm_le_const measurableSet_Ioc (by simp [Real.volume_Ioc])
+    Φ₃_contDiffOn.continuousOn hb
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: Same as `Φ₁_integrableOn`:

```suggestion
theorem Φ₃_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₃ r) (Ioc (0 : ℝ) 1) volume := by
  obtain ⟨_, _, hb⟩ := norm_Φ₃_le hr
  exact integrableOn_of_norm_le_const measurableSet_Ioc measure_Ioc_lt_top.ne
    Φ₃_contDiffOn.continuousOn hb
```

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean [hunk 27]
```diff
@@ -13,50 +13,83 @@ public import SpherePacking.MagicFunction.a.IntegralEstimates.I4
...
 
+/-- `Φ₅` is integrable on `(0, 1]`: it is uniformly bounded there by `norm_Φ₅_le`. -/
 theorem Φ₅_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₅ r)
     (Ioc (0 : ℝ) 1) volume := by
-  refine ⟨ContinuousOn.aestronglyMeasurable Φ₅_contDiffOn.continuousOn measurableSet_Ioc, ?_⟩
-  sorry
+  obtain ⟨_, _, hb⟩ := norm_Φ₅_le hr
+  exact integrableOn_of_norm_le_const measurableSet_Ioc (by simp [Real.volume_Ioc])
+    Φ₅_contDiffOn.continuousOn hb
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: Same as `Φ₁_integrableOn`:

```suggestion
theorem Φ₅_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₅ r) (Ioc (0 : ℝ) 1) volume := by
  obtain ⟨_, _, hb⟩ := norm_Φ₅_le hr
  exact integrableOn_of_norm_le_const measurableSet_Ioc measure_Ioc_lt_top.ne
    Φ₅_contDiffOn.continuousOn hb
```

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean [hunk 28]
```diff
@@ -13,50 +13,83 @@ public import SpherePacking.MagicFunction.a.IntegralEstimates.I4
...
+  Φ₄_contDiffOn.continuousOn.integrableOn_Icc
+
+/-! ### Vertical tail -/
+
+/-- On `[1, ∞)` the real integrand `Φ₆` coincides with the integrand `g` of `I₆`. -/
+lemma Φ₆_eq_I₆_g (r t : ℝ) (ht : t ∈ Ici (1 : ℝ)) :
+    Φ₆ r t = MagicFunction.a.IntegralEstimates.I₆.g r t := by
+  simp only [Φ₆, Φ₆', MagicFunction.a.IntegralEstimates.I₆.g, z₆'_eq_of_mem ht,
+    cexp_pi_I_mul_I]
+  ring_nf
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: Inside `namespace MagicFunction.a.Integrability`, sibling-namespace resolution makes `IntegralEstimates.I₆.g` unambiguous, and dropping the `MagicFunction.a.` prefix lets both the signature and the simp fit on single lines. (`ring_nf` has to stay: the equality lives inside a `cexp` argument, which only `ring_nf`'s subterm normalization reaches — `ring` only succeeds via its ring_nf fallback and emits a lint nag.) 5 → 3 lines:

```suggestion
lemma Φ₆_eq_I₆_g (r t : ℝ) (ht : t ∈ Ici (1 : ℝ)) : Φ₆ r t = IntegralEstimates.I₆.g r t := by
  simp only [Φ₆, Φ₆', IntegralEstimates.I₆.g, z₆'_eq_of_mem ht, cexp_pi_I_mul_I]
  ring_nf
```

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean [hunk 29]
```diff
@@ -13,50 +13,83 @@ public import SpherePacking.MagicFunction.a.IntegralEstimates.I4
...
+/-- `Φ₆` is integrable on `[1, ∞)`, dominated by the vertical-class majorant. -/
 theorem Φ₆_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₆ r)
     (Ici (1 : ℝ)) volume := by
-  refine ⟨ContinuousOn.aestronglyMeasurable Φ₆_contDiffOn.continuousOn measurableSet_Ici, ?_⟩
-  sorry
+  obtain ⟨C₀, _, hb⟩ := MagicFunction.a.IntegralEstimates.I₆.I₆'_bounding_aux_2 r
+  refine Integrable.mono' (MagicFunction.a.IntegralEstimates.I₆.Bound_integrableOn r C₀ hr)
+    (Φ₆_contDiffOn.continuousOn.aestronglyMeasurable measurableSet_Ici) ?_
+  rw [ae_restrict_iff' measurableSet_Ici]
+  exact ae_of_all _ fun t ht ↦ (Φ₆_eq_I₆_g r t ht).symm ▸ hb t ht
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: `rw [ae_restrict_iff' ...]` + `ae_of_all` is exactly mathlib's `ae_restrict_of_forall_mem`; plus the same relative qualification. 7 → 5 lines:

```suggestion
theorem Φ₆_integrableOn {r : ℝ} (hr : r ≥ 0) : IntegrableOn (Φ₆ r) (Ici (1 : ℝ)) volume := by
  obtain ⟨C₀, _, hb⟩ := IntegralEstimates.I₆.I₆'_bounding_aux_2 r
  exact Integrable.mono' (IntegralEstimates.I₆.Bound_integrableOn r C₀ hr)
    (Φ₆_contDiffOn.continuousOn.aestronglyMeasurable measurableSet_Ici)
    (ae_restrict_of_forall_mem measurableSet_Ici fun t ht ↦ (Φ₆_eq_I₆_g r t ht).symm ▸ hb t ht)
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — agreed and removed. `norm_cexp_pi_I_mul` is deleted; the two call sites now absorb the phase norm via `Complex.norm_exp` inside a `simpa` (see the golfed `norm_Φ₁_le`/`norm_Φ₃_le`).

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied: `norm_φ₀''_neg_inv_add_I_le` deleted along with its docstring bullet.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 3 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied: `im_I_mul` deleted.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 4 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied: the wrapper stays, proof now goes through `IntegrableOn.of_bound`.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I1.lean (hunk 5 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/I1.lean]: 🤖Claude replying — went with deletion: since the same duplication was flagged independently for I3/I5/I6, all four `Bound_integrableOn` aliases are gone and their call sites use `integrableOn_majorant_cusp`/`integrableOn_majorant_vertical` directly. I2/I4 keep their genuinely different bounds.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I2.lean (hunk 6 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/I2.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I3.lean (hunk 7 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/I3.lean]: 🤖Claude replying — yes, removed (in I1/I3/I5/I6 alike); the call site uses `integrableOn_majorant_cusp` directly.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I5.lean (hunk 8 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/I5.lean]: 🤖Claude replying — removed, same as I3.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I6.lean (hunk 9 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/I6.lean]: 🤖Claude replying — removed as well; both `I₆'_bounding_aux_3` here and `Φ₆_integrableOn` in Integrability.lean now call `integrableOn_majorant_vertical` directly.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 10 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 11 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied together with the direct `im_neg_one_div_I_mul` proof below.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 12 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied (docstring kept the geometric remark).

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 13 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied; `hne` dropped.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 14 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 15 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied, including the `inv_strictAnti₀` route. Left the `neg_inv_I_mul` vs `neg_one_div_I_mul` naming as-is for now to keep the stacked PRs' references stable.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 16 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied; the `set μ`/`change` workaround is gone.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 17 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 18 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 19 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 20 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied (with the load-bearing cast shape as noted).

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 21 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 22 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean:180]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 23 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied; with `norm_Φ₃_le` golfed the same way, `norm_cexp_pi_I_mul` lost its last callers and is deleted (also closing @CBirkbeck's thread above).

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 24 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean (hunk 25 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: 🤖Claude replying — applied to Φ₁/Φ₃/Φ₅ alike.

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean (hunk 26 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean (hunk 27 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean (hunk 28 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: 🤖Claude replying — applied.

File: SpherePacking/MagicFunction/a/Integrability/Integrability.lean (hunk 29 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/Integrability/Integrability.lean]: 🤖Claude replying — applied, with one adjustment: since `I₆.Bound_integrableOn` is deleted per the I6 thread, the proof calls `integrableOn_majorant_vertical r C₀ hr` directly instead.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 30]
```diff
@@ -0,0 +1,198 @@
...
+      = ((-(π * r) : ℝ) : ℂ) * I + (π : ℂ) * I * (r : ℂ) * (I * (t : ℂ)) from by push_cast; ring,
+    Complex.exp_add]
+  ring
+
+/-- `Φ₃` is `Φ₅` up to the unit-modulus phase `exp (πIr)`: on `[0,1]`, `z₃' t - 1 = z₅' t`. -/
+lemma Φ₃_eq_Φ₅_mul_phase (ht : t ∈ Icc (0 : ℝ) 1) :
+    Φ₃ r t = Φ₅ r t * cexp (((π * r) : ℝ) * I) := by
+  simp only [Φ₃, Φ₅, Φ₃', Φ₅', z₃'_eq_of_mem ht, z₅'_eq_of_mem ht, add_sub_cancel_left]
+  rw [show (π : ℂ) * I * (r : ℂ) * (1 + I * (t : ℂ))
+      = (((π * r) : ℝ) : ℂ) * I + (π : ℂ) * I * (r : ℂ) * (I * (t : ℂ)) from by push_cast; ring,
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: We can replace `from by` to `by`

**Comment by cameronfreer** [comment]
@CBirkbeck @seewoo5 Thanks for these reviews. Not sure why there were so many silly issues this time. I think I've addressed all of them.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean [hunk 31]
```diff
@@ -0,0 +1,198 @@
...
+`C₀ * exp (-2πs) * exp (-πr/s)` on `[1, ∞)`. The second factor is bounded there, so the
+first factor carries the integrability. -/
+theorem integrableOn_majorant_cusp (r C₀ : ℝ) :
+    IntegrableOn (fun s ↦ C₀ * rexp (-2 * π * s) * rexp (-π * r / s)) (Ici 1) volume := by
+  refine (((integrableOn_exp_mul_Ici (-2 * π) (by linarith [pi_pos])).const_mul
+    |C₀|).mul_const (rexp (π * |r|))).mono' (by fun_prop) ?_
+  filter_upwards [ae_restrict_mem measurableSet_Ici] with s (hs : 1 ≤ s)
+  simp only [Real.norm_eq_abs, abs_mul, Real.abs_exp]
+  gcongr
+  rw [div_le_iff₀ (by linarith : (0:ℝ) < s)]
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]:
```suggestion
  rw [div_le_iff₀ (by linarith : (0 : ℝ) < s)]
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/I4.lean [hunk 32]
```diff
@@ -76,36 +78,11 @@ lemma I₄'_bounding_aux_1 (r : ℝ) : ∀ t ∈ Ioo (0 : ℝ) 1, ‖g r t‖ 
...
-
+/-- The imaginary part along the top edge, from the shared computation
+`Majorants.im_neg_one_div_add_I`. -/
 lemma im_parametrisation_eq : ∀ t ∈ Ioo (0 : ℝ) 1, (-1 / (-↑t + I)).im = 1 / (t ^ 2 + 1) := by
-  intro t ht
-  conv_lhs => rw [parametrisation_eq t ht, add_im]
-  norm_cast
-  rw [zero_add, mul_I_im, ofReal_re]
+  intro t _
+  simpa using im_neg_one_div_add_I (-t : ℝ)
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I4.lean]:
```suggestion
  simpa using im_neg_one_div_add_I (-t)
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 30 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied to both phase twins (6e72f8d).

File: SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean (hunk 31 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/Majorants.lean]: 🤖Claude replying — applied (6e72f8d).

File: SpherePacking/MagicFunction/a/IntegralEstimates/I4.lean (hunk 32 above)
Comment (cameronfreer) [reply SpherePacking/MagicFunction/a/IntegralEstimates/I4.lean]: 🤖Claude replying — applied (6e72f8d).

**Review by seewoo5 — DISMISSED** [review]
Thanks!

**Review by seewoo5 — DISMISSED** [review]

**Review by thefundamentaltheor3m — CHANGES_REQUESTED** [review]
Let's merge #460 first and then update this one on top of that. (I'm "requesting changes" so that we don't accidentally merge this one first - and changes will be required once #460 is merged anyway.)

**Comment by thefundamentaltheor3m** [comment]
@cameronfreer can you please mark resolved conversations as resolved? Thank you
